US09422292B2
6-(4-chlorophenyl)-1,5-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (Compound 18)
A disposable tube was charged with 1,5-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (69 mg, 0.322 mmol), 1-chloro-4-iodobenzene (100 mg, 0.419 mmol), RuPhos precat. (11.73 mg, 0.016 mmol), dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine (7.51 mg, 0.016 mmol), sodium 2-methylpropan-2-olate (61.9 mg, 0.644 mmol), and a stirbar before being evacuated and purged with nitrogen three times. Toluene (1 mL, 0.4 M) was added, and the mixture was stirred at 90° C. 36 h. The mixture was cooled, diluted with ethyl acetate, filtered, and concentrated before being purified by silica gel chromatography (eluting with methylene chloride/methanol/1% ammonium hydroxide) and reverse phase HPLC to yield the title compound as a white amorphous solid (0.011 g, 0.034 mmol, 11%).

reactant | 1,5-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.322 mmol, 69 mg | CC1=NN=C2N1C1=C(NC(C2)C)C=CC=C1 | C12H14N4
reactant | 1-chloro-4-iodobenzene | 0.419 mmol, 100 mg | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | RuPhos | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
reactant | dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine | 0.016 mmol, 7.51 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
reactant | sodium 2-methylpropan-2-olate | 0.644 mmol, 61.9 mg | CC(C)(C)[O-].[Na+]
product | 6-(4-chlorophenyl)-1,5-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.034 mmol, 0.011 g, 11% | ClC1=CC=C(C=C1)N1C2=C(N3C(CC1C)=NN=C3C)C=CC=C2 | C18H17ClN4
